US06235731B1
1) Synthesis of N-[2-oxo-3-(4-phenylpiperidino)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide
To a solution of 0.39 g (3.05 mM) of oxalyl chloride in 20 ml of dichloromethane was added 0.43 ml (6.11 mM) of dimethyl sulfoxide dropwise at −78° C. The mixture was stirred for 5 minutes, at the end of which time a solution of 0.885 g (2.037 mM) of N-[2-hydroxy-3-(4-phenylpiperidino)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in 20 ml of dichloromethane was added and the mixture was stirred at −78° C. for 15 minutes. To this mixture was added 1.70 ml (12.2 mM) of triethylamine and the temperature was increased to room temperature. This reaction mixture was poured in water and extracted with 3 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate-methanol=9/1 to 4/1) to provide the title compound.

reactant | oxalyl chloride | 3.05 mM, 0.39 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 6.11 mM, 0.43 ml | CS(=O)C | C2H6OS
reactant | N-[2-hydroxy-3-(4-phenylpiperidino)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 2.037 mM, 0.885 g | OC(CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)CN3CCC(CC3)C3=CC=CC=C3 | C24H26N4O2S
reactant | triethylamine | 12.2 mM, 1.70 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | N-[2-oxo-3-(4-phenylpiperidino)propan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | O=C(CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32)CN3CCC(CC3)C3=CC=CC=C3 | C24H24N4O2S
